US04795748
Diphenyl-(2-methylprop-2-yl)silyl 3-chlorothioformyloxybenzoate
To a stirred solution of 130 ml of thiophosgene in 250 ml of dry diethyl ether at -78° C. was added dropwise a mixture of 72 g of diphenyl- (2-methylprop-2-yl)silyl 3-hydroxybenzoate and 29 ml of triethylamine in 200 ml of dry diethyl ether. The mixture was stirred at -78° C. for 30 minutes, at room temperature for 120 minutes, and then partitioned between diethyl ether and water. The organic layer was washed with cold water and with brine, and was dried over anhydrous calcium chloride. Evaporation in vacuo, and repeated addition of dry diethyl ether and re-evaporation in vacuo afforded 86.5 g of the title compound as a viscous orange oil.

reactant | thiophosgene | 130 ml | C(=S)(Cl)Cl | CCl2S
reactant | diphenyl- (2-methylprop-2-yl)silyl 3-hydroxybenzoate | 72 g | OC=1C=C(C(=O)O[Si](C(C)(C)C)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1 | C23H24O3Si
reactant | triethylamine | 29 ml | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | Diphenyl-(2-methylprop-2-yl)silyl 3-chlorothioformyloxybenzoate | 86.5 g | ClC(=S)OC=1C=C(C(=O)O[Si](C(C)(C)C)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1 | C24H23ClO3SSi
